US08383621B2
Step 2: 4-[4-(4-Ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoyl]-1-methylpiperazin-2-one
Sodium hydride (60% in oil, 25 mg, 0.6 mmol) was added to a solution of 4-[4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoy]-piperazin-2-one (which may be prepared in accordance with the experimental described in Example 5, step 1; 200 mg, 0.5 mmol) in N,N-dimethylformamide (5 mL). The reaction mixture was stirred at room temperature for 15 minutes prior to the addition of iodomethane (0.48 mL, 0.77 mmol). After stirring at room temperature for 1 hour, the reaction mixture was diluted by addition of ethyl acetate (30 mL) and water (30 mL). The two phases were separated and the aqueous layer was extracted with ethyl acetate (2×30 mL). The combined organic phases were finally washed with a saturated solution of sodium chloride (5×20 mL), dried over sodium sulfate, filtered and concentrated under vacuum to afford the title product as a yellow oil (200 mg, 97%).

reactant | Sodium hydride | 0.6 mmol, 25 mg | [H-].[Na+]
reactant | 4-[4-(4-ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoy]-piperazin-2-one | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(NCC3)=O)C=C2)F)C=C1F)OC | C20H20F2N2O4
reactant | iodomethane | 0.77 mmol, 0.48 mL | IC | CH3I
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 30 mL | O | H2O
product | 4-[4-(4-Ethyl-5-fluoro-2-methoxyphenoxy)-3-fluorobenzoyl]-1-methylpiperazin-2-one | 200 mg, 97% | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(N(CC3)C)=O)C=C2)F)C=C1F)OC | C21H22F2N2O4
